US08030499B2
Synthesis of (4R)-1-(5-chloro-3-(2,4-dimethoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-2-oxo-2,3-dihydro-1H-indol-3-yl)-4-hydroxy-N,N-dimethyl-L-prolinamide (levorotatory isomer)
With 150 mg of (4R)-1-[5-chloro-3-(2,4-dimethoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-hydroxy-N,N-dimethyl-L-prolinamide (levorotatory compound), which is the compound described in Preparation 3.39 of brochure Publication No. WO01/055130 and 110 mg of 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride as starting materials, 91 mg of the title compound (yellow amorphous) was obtained by a similar method to Example 2.

reactant | (4R)-1-[5-chloro-3-(2,4-dimethoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-hydroxy-N,N-dimethyl-L-prolinamide | 150 mg | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=C(C=C1)OC)OC)N1[C@H](C(=O)N(C)C)C[C@H](C1)O | C23H26ClN3O5
reactant | 4-methoxy-2-(trifluoromethoxy)benzene sulfonyl chloride | 110 mg | COC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C8H6ClF3O4S
product | (4R)-1-(5-chloro-3-(2,4-dimethoxyphenyl)-1-{[4-methoxy-2-(trifluoromethoxy)phenyl]sulfonyl}-2-oxo-2,3-dihydro-1H-indol-3-yl)-4-hydroxy-N,N-dimethyl-L-prolinamide | 91 mg | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC(F)(F)F)=O)(C1=C(C=C(C=C1)OC)OC)N1[C@H](C(=O)N(C)C)C[C@H](C1)O | C31H31ClF3N3O9S
